US07612114B2
5-Methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine
To a solution of 6-methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole (1.0 g) in N,N-dimethylformamide (10 ml) was added 60% sodium hydride (160 mg) on an ice bath. The solution was stirred for 20 minutes at room temperature, then methyl iodide (570 mg) was added dropwise thereto on an ice bath, and the solution was stirred for 2 hours at room temperature. The reaction mixture was diluted with water, extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. Obtained by purifying the residue by NH silica gel column chromatography (hexane-ethyl acetate system), the total amount of 6-methoxy-2-(4-methoxy-2-nitrophenyl)-1-methyl-1H-indole was used according to an analogous synthetic method to Example 22 to provide the title compound (720 mg).

reactant | 6-methoxy-2-(4-methoxy-2-nitrophenyl)-1H-indole | 1.0 g | COC1=CC=C2C=C(NC2=C1)C1=C(C=C(C=C1)OC)[N+](=O)[O-] | C16H14N2O4
reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | methyl iodide | 570 mg | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Methoxy-2-(6-methoxy-1-methyl-1H-indol-2-yl)phenylamine | 720 mg | COC=1C=CC(=C(C1)N)C=1N(C2=CC(=CC=C2C1)OC)C | C17H18N2O2
